US07405230B2
To a solution of 3-cyclopentyloxy-4-methoxy-N-(3-carboxyphenyl)-N-(3-pyridylmethyl)aniline (50 mg, 0.125 mmol) in 1 mL of DMF at room temperature was added 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline (EEDQ) (50 mg, 0.20 mmol). The mixture was warmed slightly until everything was in solution, then cooled to room temperature and stirred for 1 h. 5 drops of ammonium hydroxide (28-30%) was added and the mixture was stirred for an additional hour. The mixture was partitioned between water (25 mL) and EtOAc (25 mL). The EtOAc fraction was separated, washed with brine (25 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography eluting with a linear gradient from 0% to 10% MeOH in EtOAc to give 3-cyclopentyloxy-4-methoxy-N-(3-aminocarbonylphenyl)-N-(3-pyridylmethyl)aniline (28 mg, 54% yield) as a white solid. EIMS (m/z) 418 (M+H)+.

reactant | 3-cyclopentyloxy-4-methoxy-N-(3-carboxyphenyl)-N-(3-pyridylmethyl)aniline | 0.125 mmol, 50 mg | C1(CCCC1)OC=1C=C(N(CC=2C=NC=CC2)C2=CC(=CC=C2)C(=O)O)C=CC1OC | C25H26N2O4
reactant | 2-ethoxy-1-ethoxycarbonyl-1,2-dihydroquinoline | 0.20 mmol, 50 mg | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | ammonium hydroxide | 5 drops | [OH-].[NH4+]
product | 3-cyclopentyloxy-4-methoxy-N-(3-aminocarbonylphenyl)-N-(3-pyridylmethyl)aniline | 28 mg, 54% yield | C1(CCCC1)OC=1C=C(N(CC=2C=NC=CC2)C2=CC(=CC=C2)C(=O)N)C=CC1OC | C25H27N3O3
